US08877782B2
6-[(5-Methyl-3-phenyl-isoxazol-4-ylmethyl)-amino]-N-[2-(2-oxo-pyrrolidin-1-yl)-ethyl]-nicotinamide
As described for example 162b, 6-[(5-methyl-3-phenyl-isoxazol-4-ylmethyl)-amino]-nicotinic acid (200 mg, 0.65 mmol) was converted using 1-(2-amino-ethyl)-pyrrolidin-2-one instead of ethanolamine to the title compound (trituration with tert-butylmethylether, 224 mg, 83%) which was obtained as a white solid. MS: m/e=420.2 [M+H]+.

reactant | 6-[(5-methyl-3-phenyl-isoxazol-4-ylmethyl)-amino]-nicotinic acid | 0.65 mmol, 200 mg | CC1=C(C(=NO1)C1=CC=CC=C1)CNC1=NC=C(C(=O)O)C=C1 | C17H15N3O3
reactant | 1-(2-amino-ethyl)-pyrrolidin-2-one | NCCN1C(CCC1)=O | C6H12N2O
product | 6-[(5-Methyl-3-phenyl-isoxazol-4-ylmethyl)-amino]-N-[2-(2-oxo-pyrrolidin-1-yl)-ethyl]-nicotinamide | 224 mg, 83% | CC1=C(C(=NO1)C1=CC=CC=C1)CNC1=NC=C(C(=O)NCCN2C(CCC2)=O)C=C1 | C23H25N5O3
